US08030497B2
4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
The title compound is prepared starting from 4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole and (2-bromoethyl)-methyl ether using the same reaction conditions as described in Example 1. The title compound is obtained as a colorless oil.

reactant | 4-iodo-2-(4-isopropyl-phenyl)-7-methoxy-1H-benzoimidazole | IC1=CC=C(C=2NC(=NC21)C2=CC=C(C=C2)C(C)C)OC | C17H17IN2O
reactant | (2-bromoethyl)-methyl ether | BrCCOC | C3H7BrO
product | 4-Iodo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | IC1=CC=C(C=2N(C(=NC21)C2=CC=C(C=C2)C(C)C)CCOC)OC | C20H23IN2O2
